*** SPICE deck for cell Beta-multiplier{lay} from library Op-Amplifier-Two_Stages
*** Created on Mon Nov 21, 2016 10:17:22
*** Last revised on Mon Nov 21, 2016 15:20:25
*** Written on Mon Nov 21, 2016 15:20:37 by Electric VLSI Design System, version 9.06
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: Op-Amplifier-Two_Stages:Beta-multiplier{lay}
MMB1_A_1 Vss_1 vbiasM5_1 vbiasM5_1 Vss_1 nmosG L=1.6U W=4U AS=32.267P AD=20.8P PS=20.8U PD=18.4U
MMB1_B_1 vbiasM5_1 vbiasM5_1 Vss_1 Vss_1 nmosG L=1.6U W=4U AS=20.8P AD=32.267P PS=18.4U PD=20.8U
MMB2_A_1 drainMB2_1 vbiasM5_1 RBref_1 Vss_1 nmosG L=1.6U W=8U AS=25.6P AD=41.8P PS=14.4U PD=26.2U
MMB2_B_1 RBref_1 vbiasM5_1 drainMB2_1 Vss_1 nmosG L=1.6U W=8U AS=41.8P AD=25.6P PS=26.2U PD=14.4U
MMB2_C_1 drainMB2_1 vbiasM5_1 RBref_1 Vss_1 nmosG L=1.6U W=8U AS=25.6P AD=41.8P PS=14.4U PD=26.2U
MMB2_D_1 RBref_1 vbiasM5_1 drainMB2_1 Vss_1 nmosG L=1.6U W=8U AS=41.8P AD=25.6P PS=26.2U PD=14.4U
MMB3_A_1 vbiasM5_1 drainMB2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=6U AS=26.4P AD=32.267P PS=14.8U PD=20.8U
MMB3_B_1 Vdd_1 drainMB2_1 vbiasM5_1 Vdd_1 pmosG L=1.6U W=6U AS=32.267P AD=26.4P PS=20.8U PD=14.8U
MMB3_C_1 vbiasM5_1 drainMB2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=6U AS=26.4P AD=32.267P PS=14.8U PD=20.8U
MMB3_D_1 Vdd_1 drainMB2_1 vbiasM5_1 Vdd_1 pmosG L=1.6U W=6U AS=32.267P AD=26.4P PS=20.8U PD=14.8U
MMB4_A_1 Vdd_1 drainMB2_1 drainMB2_1 Vdd_1 pmosG L=1.6U W=6U AS=41.8P AD=26.4P PS=26.2U PD=14.8U
MMB4_B_1 drainMB2_1 drainMB2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=6U AS=26.4P AD=41.8P PS=14.8U PD=26.2U
MMB4_C_1 Vdd_1 drainMB2_1 drainMB2_1 Vdd_1 pmosG L=1.6U W=6U AS=41.8P AD=26.4P PS=26.2U PD=14.8U
MMB4_D_1 drainMB2_1 drainMB2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=6U AS=26.4P AD=41.8P PS=14.8U PD=26.2U

* Spice Code nodes in cell cell 'Op-Amplifier-Two_Stages:Beta-multiplier{lay}'
Vdd_1 Vdd_1 0 2.5
Vss_1 Vss_1 0 -2.5
.END
